US07846960B2
4-(2-Oxo-ethyl)-benzoic Acid Methyl Ester
To a 0° C. solution of 4-(2-Methoxy-vinyl)-benzoic acid methyl ester (930 mg, 4.84 mmol) in THF (50 mL) is added conc. HCl (7 mL) dropwise. After 2 h, the reaction is diluted with water and the pH is adjusted to 7. The aqueous layer is extracted with Et2O (2×200 mL). The combined organic layers are washed with brine, dried (MgSO4), filtered, concentrated, and chromatographed (0% to 30% EtOAC/Hex) to yield the title compound (613 mg, 71%). 1H NMR (400 MHz, CDCl3) δ 9.77 (t, 1H, J=2.2 Hz), 8.04 (d, 2H, J=8.4 Hz), 7.30 (d, 2H, J=8.8 Hz), 3.92 (s, 3H), 3.77 (d, 2H, J=2.2 Hz).

reactant | 4-(2-Methoxy-vinyl)-benzoic acid methyl ester | 4.84 mmol, 930 mg | COC(C1=CC=C(C=C1)C=COC)=O | C11H12O3
reactant | HCl | 7 mL | Cl | ClH
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 4-(2-Oxo-ethyl)-benzoic Acid Methyl Ester | 613 mg, 71% | COC(C1=CC=C(C=C1)CC=O)=O | C10H10O3
